US04200641
A mixture of 4.9 parts of 3-(3-chloropropyl)-2(3H)-benzoxazolone, 5 parts of 1-(diphenylmethyl)piperazine, 6.4 parts of sodium carbonate and 200 parts of 4-methyl-2-pentanone is stirred and refluxed overnight with water-separator. The reaction mixture is cooled, water is added and the layers are separated. The 4-methyl-2-pentanone phase is dried, filtered and evaporated. The oily residue is dissolved in 2,2'-oxybispropane and the solution is stirred with activated charcoal. The latter is filtered off over hyflo and the clear filtrate is acidified with 2-propanol, previously saturated with gaseous hydrogen chloride. The formed hydrochloride salt is filtered off and triturated in 2-propanol. It is filtered off again and dried, yielding 3-{3-[4-(diphenylmethyl)-1-piperazinyl]propyl}-2(3H)benzoxazolone dihydrochloride; mp. 212.4° C.

reactant | 3-(3-chloropropyl)-2(3H)-benzoxazolone | ClCCCN1C(OC2=C1C=CC=C2)=O | C10H10ClNO2
reactant | 1-(diphenylmethyl)piperazine | C1(=CC=CC=C1)C(N1CCNCC1)C1=CC=CC=C1 | C17H20N2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | 4-methyl-2-pentanone | CC(CC(C)=O)C | C6H12O
solvent | water | O | H2O
product | 3-{3-[4-(diphenylmethyl)-1-piperazinyl]propyl}-2(3H)benzoxazolone dihydrochloride | Cl.Cl.C1(=CC=CC=C1)C(N1CCN(CC1)CCCN1C(OC2=C1C=CC=C2)=O)C2=CC=CC=C2 | InChI=1S/C27H29N3O2.2ClH/c31-27-30(24-14-7-8-15-25(24)32-27)17-9-16-28-18-20-29(21-19-28)26(22-10-3-1-4-11-22)23-12-5-2-6-13-23;;/h1-8,10-15,26H,9,16-21H2;2*1H
